US06162824
(mmmm) O-(1-Phenyl-9H-fluoren-9-yl)-L-serine:
from 1-phenyl-9H-fluoren-9-ol (prepared by NaBH4 reduction of 1-phenyl-9H-fluoren-9-one) and Nα -(9-fluorenylmethoxycarbonyl)-L-serine methyl ester following method A, using trifluoroacetic acid as catalyst in place of H2SO4 ; and

reactant | 1-phenyl-9H-fluoren-9-ol | C1(=CC=CC=C1)C1=CC=CC=2C3=CC=CC=C3C(C12)O | C19H14O
reactant | Nα -(9-fluorenylmethoxycarbonyl)-L-serine methyl ester | COC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CO)=O | C19H19NO5
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
catalyst | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | O-(1-Phenyl-9H-fluoren-9-yl)-L-serine | C1(=CC=CC=C1)C1=CC=CC=2C3=CC=CC=C3C(C12)OC[C@H](N)C(=O)O | C22H19NO3
